US07402595B2
2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid
A mixture of 6-bromo-2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (350 mg), 10% palladium carbon (150 mg), methanol (5 ml) and THF (5 ml) was stirred at room temperature under 1 atm hydrogen pressure for 12 hrs. Palladium carbon was filtered off, and the filtrate was concentrated. The obtained crystals were washed with diethyl ether to give the title compound (190 mg).

reactant | 6-bromo-2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 350 mg | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC=1C=CC2=C(CCO2)C1)C(=O)O)C1=CC=CC=C1 | C25H18BrNO4
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 150 mg | [C].[Pd]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 190 mg | O1CCC2=C1C=CC(=C2)CN2C(C1=CC=CC=C1C(=C2C(=O)O)C2=CC=CC=C2)=O | C25H19NO4
